US04380466
2-(4-Bromo-2-fluorophenyl)-3a-hydroxy-1-thioxo-octahydroisoindol-3-one
In 350 ml of ethanol was dissolved 33.0 g of 4'-bromo-2'-fluoro-2-oxocyclohexane-1-thiocarboxanilide, and a solution of 7.0 g of potassium cyanide in 35 ml of water was added to the solution with stirring at room temperature over a 10-minute period, followed by adding 9.2 ml of concentrated hydrochloric acid at 10° to 20° C. over a 1 hour period, while cooling. After stirring was continued at room temperature for 1 hour, 30 ml of concentrated hydrochloric acid and 30 ml of water were added to the reaction mixture, and the mixture was warmed and stirred at 50° to 60° C. for 10 minutes. Upon cooling, there resulted crystals, which were collected by filtration, washed with dilute ethanol and dried, thereby producing 24.5 g (yield of 68%) of the subject compound. Recrystallization from ethanol yielded slightly yellow crystals, m.p. 163°-164° C.

reactant | 4'-bromo-2'-fluoro-2-oxocyclohexane-1-thiocarboxanilide | 33.0 g | BrC1=CC(=C(NC(=S)C2C(CCCC2)=O)C=C1)F | C13H13BrFNOS
reactant | potassium cyanide | 7.0 g | [C-]#N.[K+]
reactant | hydrochloric acid | 9.2 ml | Cl | ClH
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | ethanol | 350 ml | C(C)O | C2H6O
solvent | water | 35 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 2-(4-Bromo-2-fluorophenyl)-3a-hydroxy-1-thioxo-octahydroisoindol-3-one | 24.5 g, yield of 68% | BrC1=CC(=C(C=C1)N1C(C2CCCCC2(C1=O)O)=S)F | C14H13BrFNO2S
